US06218390B1
b. 2-{[4-(2,4-Difluorobenzoyl)piperidinyl]amino}ethylamine
A solution of 4-(2,4-difluorobenzoyl)piperidinone (1.50 g, 6.27 mmol) in benzene (40 mL) and ethylenediamine (4.0 mL) was refluxed for 6 hours. The resulting mixture was concentrated to a residue which was dissolved in MeOH (30 mL). The mixture was cooled (0° C.) and NaBH4 (1.0 g, 26.4 mmol) was slowly added. After stirred for an hour, the mixture was concentrated and quenched with 1 N NaOH (50 mL). The mixture was extracted with CH2Cl2 (5×20 mL), dried (K2CO3), and was concentrated. The residue was purified by flash chromatography (CHCl3-MeOH-2 M NH3 in MeOH 100:10:2 to 100:20:5) to afford the product as an pale yellow solid (670 mg, 38%).

reactant | 4-(2,4-difluorobenzoyl)piperidinone | 6.27 mmol, 1.50 g | FC1=C(C(=O)C2CC(NCC2)=O)C=CC(=C1)F | C12H11F2NO2
reactant | NaBH4 | 26.4 mmol, 1.0 g | [BH4-].[Na+]
reactant | ethylenediamine | 4.0 mL | C(CN)N | C2H8N2
solvent | benzene | 40 mL | C1=CC=CC=C1 | C6H6
product | 2-{[4-(2,4-Difluorobenzoyl)piperidinyl]amino}ethylamine | 670 mg, 38% | FC1=C(C(=O)C2CCN(CC2)NCCN)C=CC(=C1)F | C14H19F2N3O
